Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine
 
Attending: ___.
 
Chief Complaint:
Hand and foot wounds
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is as ___ incarcerated male with ESRD
secondary to PCKD s/p failed kidney transplant in ___ and on HD
___, Hepatitis C (treated), HTN, hx of osteomyelitis/
endocarditis per chart review, and carotid stenosis who is
presenting with approximately 4 months of worsening bilateral
hand and unilateral foot pain swelling and skin breakdown. 

He reports no known antecedent trauma to his hands and his feet
but has had progressive pain and discoloration of two fingers on
his right hand, one finger on his left hand, and right big toe.
He reports trying to seek help earlier but was unable to get
medical attention at his ___ facility. The pain has
progressively gotten worse to now ___ pain, limiting his
ability to ambulate and use his hands.

Regarding his ulcers, per outpatient notes, Mr. ___ has a 
long
history of manipulative and self-injurious behavior. The wound 
on
the right hand started as a small cut likely from trimming his
finger nails. Without adequate wound care or dressing changes,
this progressed into a blister and then further progressed to 
the
necrotic lesion.

He had an ultrasound of the right subclavian to rule out 
thrombus
and an echo which showed no vegetations. ANCA panel and
cryoglobulins were negative. He had a period where the hand
became edematous and erythematous, with elevated ESR and CRP and
was treated with IV vanco and ceftaz with improvement in the
wound appearance, edema and erythema. Despite this, he continued
to be non-compliant with wound care.

He was seen by Vascular Surgery at ___ and on ___ an
arteriogram was done there showing:

The right subclavian artery axillary and brachial arteries were
all widely patent.  The right ulnar artery was the primary
outflow to the hand as the radial artery occluded in the distal
forearm.  On the left the subclavian axillary and brachial
arteries were all widely patent.  There was reversal of flow
distal to the fistula, the fistula filled very quickly.  With
fistula compression the ulnar artery had improved flow and was
the primary runoff to the hand as the radial artery occluded in
the mid forearm.  Of note, there was significant sluggish flow
throughout all of his vessels concerning for a possible central
source.

Dr. ___ performed the study, had no good explanation
for the very sluggish flow in this patient whose last EF was
normal. There were no treatable lesions as above.

Dr. ___, the transplant physician who has been managing his 
left upper extremity fistula, felt that ligating the fistula 
would be recommended in this setting to optimize flow to the 
left hand and help healing as much as possible, although patient 
has declined in the past. This may be an elective option in the 
future.

In the ED, initial vitals:  
T 96.0  HR 88  BP 156/77  RR 20  O2 Sat 95% RA 

- Exam notable for:  
Con: In no acute distress
CV: 3 out of 6 holosystolic ejection murmur
MSK: Secondary digits of right hand, second digit of left hand,
first digit of right foot with ulcerations consistent with dry
gangrene, possible small amount of purulence of second digit of
right hand, swelling of feet bilaterally, all extremities cool
and tender to palpation, digits of hands are tender to palpation
and swollen however are not held in a flexed position can be
fully extended without pain

- Labs notable for:  
Chem panel: Na 133, K 5.2, Cl 92, CO2 27, BUN 31, Cr 6.3, Glc 
88,
AG 14; extended lytes are normal
CBC: WBC 6.2, Hgb 12.1 with MCV 86, Plt 180
Coags: Normal
LFTs: Normal
UA: 600 protein, 6 WBC
Lactate: 1.5

- Imaging notable for:  

XR Bilateral Hands-
Loss of soft tissue at the tip of the right long finger, 
possibly
reflecting necrotic changes, with subtle loss of bone at the
terminal phalangeal tuft concerning for focal osteomyelitis. 
Left
hand grossly unremarkable.

XR Bilateral Feet-
No evidence of osteomyelitis or soft tissue gas. Soft tissue
swelling noted bilaterally slightly more pronounced on the right
than left. 

RLE US:
No evidence of DVT in the right lower extremity.

CXR:
1. No acute intrathoracic process. 
2. Dialysis catheter appears well positioned. 

Hand surgery was consulted and felt that there was no need for
acute intervention particularly given that patient is afebrile
and does not have an elevated WBC. Recommended IV antibiotics.

- Pt given:  
PO oxycodone 5mg
Tylenol 1g
Morphine IV 4mg x 2
IV Vancomycin 1g and Ciprofloxacin 400mg 

- Vitals prior to transfer:  
HR 74  BP 176/92  RR 16  O2 Sat 95% RA 

On the floor, patient reports ___ pain in his right hand
(second and third fingers), left second finger, and right big
toe. He manages his medications by himself and does not have any
issues remembering his medications. He is very hypertensive on
arrival, as he did not get any of his BP medications on ___.
Metoprolol ER and nifedipine ER were given to him early on
arrival to the floor. He denies any headache, dizziness, visual
changes, chest pain, shortness of breath.

ROS:
Specifically denies any fevers, chills, sweats.
Has had some weight loss due to poor appetite.
Has had decreased urine output.
No visual changes, no chest pain, no shortness of breath or
cough.
No nausea, vomiting or diarrhea.
No mood changes.
Otherwise 10-point review of systems negative 
 
Past Medical History:
ESRD due to polycystic kidney disease, on HD ___ to ___ s/p
SCD renal transplant ___
GERD
Hepatitis C, treated with interferon monotherapy then Harvoni
post-transplant
Hypertension 
Hyperparathyroidism status post subtotal parathyroidectomy 
revision ___, thyroid lobectomy. 
Gout. 
Carotid stenosis. 
Restless legs syndrome. 
Depression. 
L5-S1 discitis, osteomyelitis, epidural abscess ___
enterococcus bacteremia, treated with 10 days of
ampicillin/gentamycin Endocarditis (___) 

 
Social History:
___
Family History:
Father: ___, pancreatic cancer, alcohol and drug abuse
Mother: ___, diabetes
Sister: CAD
- Most sisters (___ or ___) with DM 
Brother: healthy
Son: ___

 
Physical Exam:
ADMISSION PHYSCIAL EXAM:
========================
VITALS: T 98.1 BP 184 / 93 HR 75 RR 18 O2 Sat 96 ra 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL. No
JVD.
Chest: Has HD catheter tunneled into right chest
CV: Regular rate and rhythm, normal S1 + S2, II/VI systolic
murmur heard throughout
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present.
Prior transplant scar on right abdomen.
Ext: Warm. Fistula in left arm is in process with scar tissue
proximally and distally. Mild pitting edema up to mid shin R > 
L.
No erythema or tenderness to palpation over fistula.
 -- RUE: Necrosis of distal tips of R ___ and ___ finger with
tenderness to palpation; pain with passive ROM and active ROM.
Significant nail changes, detached from underlying skin. 2+
radial pulse. Sensation intact.
 -- LUE: Necrosis of distal tip of L ___ finger with tenderness
to palpation and again, pain with passive ROM and active ROM.
Radial artery not palpable. 
 -- RLE: Necrosis of distal R big toe, significant tenderness to
palpation; pain with passive and active ROM. Sensation intact.
Neuro: CNII-XII intact. ___ strength distal extremities but
limited by pain.  

DISCHARGE PHYSICAL EXAM:
======================
___ 0707 Temp: 98.3 PO BP: 186/94 HR: 85 RR: 17 O2 sat: 96%
O2 delivery: Ra 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear
Chest: Has HD catheter tunneled into right chest
CV: Regular rate and rhythm, normal S1 + S2, II/VI systolic
murmur heard throughout
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present.
Prior transplant scar on right abdomen.
Ext: Warm. Fistula in left arm. Several fingers with dressing.
Necrosis of distal R big toe. Several other fingers seem to be
forming discoloration. 
Neuro: CNII-XII intact. ___ strength distal extremities but
limited by pain.  
 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 07:30PM BLOOD WBC-6.2 RBC-4.29* Hgb-12.1* Hct-36.8* 
MCV-86 MCH-28.2 MCHC-32.9 RDW-16.6* RDWSD-51.7* Plt ___
___ 07:30PM BLOOD Neuts-78.9* Lymphs-12.5* Monos-7.7 
Eos-0.6* Baso-0.0 Im ___ AbsNeut-4.91 AbsLymp-0.78* 
AbsMono-0.48 AbsEos-0.04 AbsBaso-0.00*
___ 08:00PM BLOOD ___ PTT-33.4 ___
___ 07:30PM BLOOD Glucose-88 UreaN-31* Creat-6.3*# Na-133* 
K-5.2 Cl-92* HCO3-27 AnGap-14
___ 08:00PM BLOOD Albumin-3.5 Calcium-9.8 Phos-4.3 Mg-2.4
___ 10:16PM BLOOD TotProt-5.4*
___ 08:19PM BLOOD Lactate-1.5

PERTINENT/DISCHARGE LABS:
=========================
___ 10:16PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 10:16PM BLOOD ANCA-NEGATIVE B
___ 08:00PM BLOOD CRP-45.5*
___ 10:16PM BLOOD C4-21
___ 10:16PM BLOOD HIV Ab-NEG
___ 10:16PM BLOOD HCV Ab-POS*
___ 10:09AM BLOOD SerVisc-1.6
___ 10:16PM BLOOD Lupus-NOTDETECTE dRVVT-S-1.11 SCT-S-1.12
___ 08:40AM BLOOD b2micro-19.4*
___ 10:16PM BLOOD PEP-NO SPECIFI IFE-NO MONOCLO
___ 10:09AM BLOOD C3-119

IMAGING:
========
XR Bilateral Hands: ___
Loss of soft tissue at the tip of the right long finger, 
possibly
reflecting necrotic changes, with subtle loss of bone at the
terminal phalangeal tuft concerning for focal osteomyelitis. 
Left
hand grossly unremarkable.

XR Bilateral Feet: ___
No evidence of osteomyelitis or soft tissue gas. Soft tissue
swelling noted bilaterally slightly more pronounced on the right
than left. 

RLE US: ___
No evidence of DVT in the right lower extremity.

CXR: ___
1. No acute intrathoracic process. 
2. Dialysis catheter appears well positioned. 

TTE ___ 
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/global biventricular systolic 
function. Mild aortic stenosis. Moderate mitral regurgitation 
(may be UNDERestimated due to shadowing). No 2D 
echocardiographic evidence for endocarditis. If
clinically suggested, the absence of a discrete vegetation on 
echocardiography does not exclude the diagnosis of endocarditis. 
Compared with the prior TTE (images reviewed) of ___, the 
findings are similar.

MR ___ Hand ___
Limited study. Nonspecific marrow edema in the distal phalanges 
of the index, long, and ring fingers.  Although these findings 
could represent early osteomyelitis, given the patient's 
clinical presentation, the findings are more likely related to 
the patient's peripheral vascular disease. 

Lower extremity ABIs ___
Noncompressible distal vessels bilaterally with diminished toe 
pressures 
consistent with significant obstructive arterial disease. 
Doppler and pulse volume recordings consistent with tibial 
disease 
bilaterally, with significantly diminished left digit PVR. 

DISCHARGE LABS
=============
___ 04:31AM BLOOD WBC-6.4 RBC-3.83* Hgb-10.7* Hct-34.9* 
MCV-91 MCH-27.9 MCHC-30.7* RDW-17.0* RDWSD-55.5* Plt ___
___ 04:31AM BLOOD Glucose-99 UreaN-50* Creat-6.8* Na-137 
K-5.2 Cl-96 HCO3-27 AnGap-14
___ 04:31AM BLOOD Calcium-9.1 Phos-5.3* Mg-2.8*
 
Brief Hospital Course:
Mr. ___ is a ___ y/o male with a history of ESRD ___ PCKD s/p 
deceased donor renal transplant (___) c/b chronic allograft 
dysfunction, now back on HD since ___, HCV s/p Harvoni, and 
HTN who presented with bilateral digital ulcers, with imaging 
concerning for possible osteomyelitis. Broad workup sent to rule 
out vasculitic process and embolic source. Presentation 
ultimately thought secondary to peripheral vascular disease with 
associated dry gangrene of the digits.

ACUTE/ACTIVE PROBLEMS: 

# Foot/Hand ulcers
# Concern for osteomyelitis
Patient presented with worsening pain, swelling, and necrotic 
changes of the R index/middle and L index fingers in the setting 
of progressively worsening chronic hand ischemia. Duration seems 
likely ___ months, as not noted on prior admission discharged in 
___. Per outpatient notes, injury was apparently incurred and 
resulted in worsening appearance and apparent concern for 
superinfection which was treated with IV Vanc/Ceftaz at ___ 
additionally, reportedly ANCA and Cryoglobulins were sent and 
were negative. When not improved, patient was sent to ___ 
where arteriogram shows sluggish flow without evidence of a flow 
limiting lesion. This may be seen in the presence of a central 
lesion or can also be seen in advanced heart failure, however EF 
was noted to be preserved. Broad differential was considered for 
decreased perfusion and vasculopathy including peripheral 
arterial disease, embolic (hypercoagulability, infectious, 
central lesion) vasculitis(small/medium/large vessel 
involvement, cryoglobulinemia) with work up unrevealing. He also 
underwent CTA chest which did not show a central lesion in his 
aorta. He had ABIs of the lower extremities which showed 
significant vascular occlusive disease. Calciphylaxis was 
considered, dermatology was consulted but thought unlikely given 
isolated involvement of fingertips. For potential benefit of 
increased perfusion via vasodilation, nifedipine was uptitrated. 
Tacrolimus was discontinued after discussion with renal given 
limited benefit to graft and known side effect of 
vasoconstriction. Admission radiographs concerning for R digit 
osteomyelitis and as such MR was obtained which was not fully 
completed, but did not show osteomyelitis. Repeat MRI was not 
pursued as hand surgery did not think it would change 
management. Vascular surgery and hand surgery were consulted. 
Vascular surgery did not recommend intervention. Hand surgery 
felt his presentation was most likely consistent with dry 
gangrene related to his peripheral vascular disease and the 
fingers would likely self-demarcate/self-amputate. Pain was 
aggressively controlled with OxyCODONE (Immediate Release) 15 mg 
PO Q8H:PRN Pain on discharge. He was also started on gabapentin 
100 mg daily as adjuvant medication which discussed with the 
nephrology team.

#Atypical pneumonia
Found to incidentally have multifocal opacities on CTA chest per 
above. He was asymptomatic without leukocytosis, fever, cough. 
Differential diagnosis for the opacities included vasculitis 
given the above workup, however was ultimately felt to be most 
consistent with an atypical pneumonia. He received azithromycin 

#ESRD ___ PCKD s/p DDRT ___ c/b chronic allograft dysfunction 
(antibody-mediated rejection ___, biopsy-confirmed chronic 
transplant glomerulopathy, interstitial fibrosis & tubular 
atrophy ___ 
Patient maintained on HD ___ schedule for dialysis. Discharge 
weight was around
148lb on prior admission. On admission 140lbs. Discharge weight 
140.1 lbs.
- Continued home nephrocap daily, Mg oxide 800mg daily, Calcium
Carbonate 500 mg PO BID, and Cinacalcet 30 mg PO DAILY, EPO shot 
once weekly, renal diet, fluid restriction 1.5L daily. 
Tacrolimus was discontinued given limited benefit to graft and 
known side effect of vasoconstriction. 

# Immunosuppression
Continued prednisone 5mg daily. Prior to admission tacrolimus 
2.5mg BID which is vasoconstrictive, held after discussion with 
renal. Continued PCP ppx with ___ Suspension 750 mg PO 
DAILY. 

#Hypertension
Uptitrated nifedipine to 30 daily.

#Afib:
Labetolol switched to metoprolol succinate 50 daily last 
admission. Downtitrated metoprolol to 25 mg daily to decrase 
potential vasoconstriction.

CHRONIC/STABLE PROBLEMS: 
========================

#Normocytic anemia 
Hemoglobin stable from prior, felt to be ___ anemia of chronic 
disease ___ ESRD and iron deficiency. Continued ferrous 
gluconate 324mg BID.

# Left-sided L4-L5 neural foraminal narrowing
On past admission, patient presented with left flank/hip/back 
pain. MRI L-spine and pelvis were done, demonstrating L5-S1 
changes c/w chronic spondyloarthropathy ___ ESRD vs. sequela of 
prior discitis, as well as severe left-sided L4-L5 neural 
foraminal narrowing. Continued pain management: APAP 1000mg Q8h, 
amitriptyline 100mg QHS, lidocaine patch.

# GERD
Continued home ranitidine daily, simethicone for gas.

# Hyperlipidemia: 
Continued home atorvastatin 80mg daily.

# Health maintenance
Continued home Vitamin D weekly (___), aspirin 81mg daily.

GENERAL/SUPPORTIVE CARE: 
#CODE: Full confirmed
#CONTACT: ___ (Son) - No number on file
For emergency contact, patient requests ___ (mom) be called
___

TRANSITIONAL ISSUES
===================
[] Continue azithromycin 250 mg daily for treatment of atypical 
pneumonia (end date = ___
[] Recommend outpatient referral to vascular medicine for 
further evaluation of non-operative management of vascular 
disease
[] Consider repeat CT chest imaging to evaluate for resolution 
of multifocal opacities
[] Follow up with hand surgery in two weeks for further 
management of dry gangrene
[] Follow up with Dr. ___ surgery) at ___ in 
approximately 1 month
[] Gabapentin 100 mg daily started for pain control. Consider 
dosing with additional 100-200 mg post-dialysis on HD days. 
[] Discharge pain regimen: oxycodone 15 mg TID PRN pain. Please 
consider weaning off as acute pain resolved. 
[] Wound care recs:
1. Commercial wound cleanser or normal saline to cleanse wounds. 
Pat the tissue dry with dry gauze.
2. Right great toe:
- Apply betadine, may cover with DSD. Change daily.
3.Bilateral pointer finger and right second finger:
- Apply Betadine over necrotic ulcers, cover with DSD. Change 
Daily.
- Elevate right hand

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
2. Amitriptyline 100 mg PO QHS 
3. Aspirin 81 mg PO DAILY 
4. Atovaquone Suspension 750 mg PO DAILY 
5. Atorvastatin 80 mg PO QPM 
6. Calcium Carbonate 500 mg PO BID 
7. Cinacalcet 30 mg PO DAILY 
8. Ferrous GLUCONATE 324 mg PO BID 
9. Lidocaine 5% Patch 1 PTCH TD QPM 
10. Furosemide 80 mg PO 4X/WEEK (___) 
11. Epoetin ___ ___ unit/ml SC 1/WEEK 
12. Magnesium Oxide 800 mg PO DAILY 
13. Metoprolol Succinate XL 50 mg PO DAILY 
14. Morphine SR (MS ___ 10 mg PO DAILY 
15. NIFEdipine (Extended Release) 30 mg PO DAILY 
16. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chset pain 
17. nutri.supp,lacto-free,iron-soy 0.04 gram- 1 kcal/mL Other 
3X/WEEK 
18. PredniSONE 5 mg PO DAILY 
19. Ranitidine 150 mg PO DAILY 
20. Simethicone 80 mg PO TID:PRN bloating 
21. Tacrolimus 2.5 mg PO Q12H 
22. Vitamin D ___ UNIT PO 1X/WEEK (___) 
23. Nephro-Vite (B complex-vitamin C-folic acid) 0.8 mg oral 
DAILY 

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 4 Doses 
RX *azithromycin 250 mg 1 tablet(s) by mouth Daily Disp #*1 
Tablet Refills:*0 
2.  Bisacodyl 10 mg PO DAILY 
RX *bisacodyl 5 mg 2 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
3.  Gabapentin 100 mg PO DAILY 
RX *gabapentin 100 mg 1 capsule(s) by mouth Daily Disp #*30 
Capsule Refills:*0 
4.  Nephrocaps 1 CAP PO DAILY 
RX *B complex with C#20-folic acid [Nephrocaps] 1 mg 1 
capsule(s) by mouth Daily Disp #*30 Capsule Refills:*0 
5.  OxyCODONE (Immediate Release) 15 mg PO Q8H:PRN Pain - Severe 

RX *oxycodone 15 mg 1 tablet(s) by mouth Every 8 hours Disp #*21 
Tablet Refills:*0 
6.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth Twice daily Disp 
#*30 Tablet Refills:*0 
7.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 
8.  NIFEdipine (Extended Release) 60 mg PO DAILY 
RX *nifedipine 60 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
9.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
10.  Amitriptyline 100 mg PO QHS  
11.  Aspirin 81 mg PO DAILY  
12.  Atorvastatin 80 mg PO QPM  
13.  Atovaquone Suspension 750 mg PO DAILY  
14.  Calcium Carbonate 500 mg PO BID  
15.  Cinacalcet 30 mg PO DAILY  
16.  Epoetin ___ ___ unit/ml SC 1/WEEK  
17.  Ferrous GLUCONATE 324 mg PO BID  
18.  Furosemide 80 mg PO 4X/WEEK (___)  
19.  Lidocaine 5% Patch 1 PTCH TD QPM  
20.  Magnesium Oxide 800 mg PO DAILY  
21.  Nephro-Vite (B complex-vitamin C-folic acid) 0.8 mg oral 
DAILY  
22.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chset pain  
23.  nutri.supp,lacto-free,iron-soy 0.04 gram- 1 kcal/mL Other 
3X/WEEK  
24.  PredniSONE 5 mg PO DAILY  
25.  Ranitidine 150 mg PO DAILY  
26.  Simethicone 80 mg PO TID:PRN bloating  
27.  Vitamin D ___ UNIT PO 1X/WEEK (___)  
28. HELD- Morphine SR (MS ___ 10 mg PO DAILY  This 
medication was held. Do not restart Morphine SR (MS ___ 
until you are told to do so by your doctor.

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
Dry gangrene of digits
Chronic vascular insufficiency secondary to peripheral vascular 
disease

SECONDARY DIAGNOSES
===================
ESRD ___ PCKD s/p failed transplant
Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr ___, 
 
It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You had ulcers on your fingers that became very painful

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were seen by our specialists for your ulcers. Your ulcers 
developed due to poor blood flow.
- There was concern you had a bone infection of your finger. 
- Our vascular surgeons recommended no surgery. 
- Our hand surgeons recommended waiting until the tips of your 
fingers broke off on their own.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please take your medications and go to your follow up 
appointments as described in this discharge summary.  
- If you experience any of the danger signs listed below, please 
call your primary care doctor or go to the emergency department 
immediately. 
- Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs. 

We wish you the best!  

Sincerely,  

Your ___ Team  

 
Followup Instructions:
___